US08604198B2
3-{(2S,4S)-4-[4-(3-methyl-1-phenyl-1H-pyrazol-5-yl)piperazin-1-yl]pyrrolidin-2-ylcarbonyl}thiazolidine
3-{(2S,4S)-1-(1,1-Dimethylethyloxycarbonyl)-4-[4-(3-methyl-1-phenyl-1H-pyrazol-5-yl)piperazin-1-yl]pyrrolidin-2-ylcarbonyl}thiazolidine (25.45 g, synthesized according to the compound described in Example 222 of WO02/14271) was dissolved in dichloromethane (200 mL). Trifluoroacetic acid (50 mL) was added at room temperature, and the mixture was stirred for 19 hrs. The reaction mixture was concentrated under reduced pressure and saturated aqueous sodium hydrogencarbonate solution was added to the residue. The mixture was extracted with chloroform. The extract was washed with saturated brine and dried. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound as a solid (19.28 g, yield 93%).

reactant | 3-{(2S,4S)-1-(1,1-Dimethylethyloxycarbonyl)-4-[4-(3-methyl-1-phenyl-1H-pyrazol-5-yl)piperazin-1-yl]pyrrolidin-2-ylcarbonyl}thiazolidine | CC(C)(OC(=O)N1[C@@H](C[C@@H](C1)N1CCN(CC1)C1=CC(=NN1C1=CC=CC=C1)C)C(=O)N1CSCC1)C | C27H38N6O3S
reactant | Trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-{(2S,4S)-4-[4-(3-methyl-1-phenyl-1H-pyrazol-5-yl)piperazin-1-yl]pyrrolidin-2-ylcarbonyl}thiazolidine | 19.28 g, yield 93% | CC1=NN(C(=C1)N1CCN(CC1)[C@H]1C[C@H](NC1)C(=O)N1CSCC1)C1=CC=CC=C1 | C22H30N6OS
